US05443986
Synthesis of 2-(2'-hydroxypyridyl)-4-(3H)-quinazolinone, (17a).
To a stirred solution of 20 mmole of 3-hydroxypicolinamide (2.6 g) in 10 mL dimethylformamide is added 3.2 g (20 mmole) of isatoic anhydride. The mixture is heated to 80°-100° C. and then 5 mg of powdered potassium hydroxide is added. The mixture is kept at this temperature for 4 hours then cooled and the precipitate is isolated, washed with cold dimethylformamide and methanol. Yield: 2.2 g (46%); mp: 190°-192° C. Color of fluorescence: blue.

reactant | 3-hydroxypicolinamide | 20 mmole, 2.6 g | OC=1C(=NC=CC1)C(=O)N | C6H6N2O2
reactant | isatoic anhydride | 20 mmole, 3.2 g | C1=2C(=O)OC(NC1=CC=CC2)=O | C8H5NO3
reactant | potassium hydroxide | 5 mg | [OH-].[K+]
reactant | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 2-(2'-hydroxypyridyl)-4-(3H)-quinazolinone | OC1=NC=CC=C1C1=NC2=CC=CC=C2C(N1)=O | C13H9N3O2
